US07425568B2
2-(3-Fluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 220 mg of 2-(3-fluorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.85 (s, 1H), 7.45 (m, 1H), 7.30-7.25 (m, 2H), 7.15 (m, 1H), 6.88 (d, 1H, J 2.8 Hz), 6.62 (d, 1H, J 8.7 Hz), 6.55 (dd, 1H, J 8.7, 2.8 Hz), 5.44 (d, 1H, J 7.0 Hz), 5.15 (d, 1H, J 10.7 Hz), 4.86 (m, 1H), 2.29 (m, 1H), 1.86 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | 220 mg | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
product | 2-(3-Fluorophenyl)chroman-4,6-diol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13FO3
